US07851473B2
(2) N-(5-Methylisoxazol-3-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl (5-methylisoxazol-3-yl)carbamate (200 mg, 0.731 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.812 mmol) and diisopropylethylamine (0.141 ml, 0.812 mmol) in dimethylsulfoxide (2.5 ml) was stirred at 70° C. for 3 hours. Water was poured into the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and tetrahydrofuran to obtain the desired product (119 mg, 44.0%) as a solid.

reactant | 2,2,2-trichloroethyl (5-methylisoxazol-3-yl)carbamate | 0.731 mmol, 200 mg | CC1=CC(=NO1)NC(OCC(Cl)(Cl)Cl)=O | C7H7Cl3N2O3
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.812 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.812 mmol, 0.141 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | N-(5-Methylisoxazol-3-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 119 mg, 44.0% | CC1=CC(=NO1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C17H18N6O2S
